US07589206B2
1-Methyl-N-[2-methyl-4-(trifluoromethyl)phenyl]-7-(4-morpholinylcarbonyl)-1H-pyrrolo[3,2-c]pyridin-4-amine
A mixture of 4-chloro-1-methyl-7-(4-morpholinylcarbonyl)-1H-pyrrolo[3,2-c]pyridine (100 mg), 2-methyl-4-trifluoromethylaniline (60 μl), cesium carbonate (163 mg), tris(dibenzylideneacetone)dipalladium (0) (7 mg) and 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene (5 mg) in 1,4-dioxan (2 ml) was heated to 100° C. under argon overnight. The reaction mixture was diluted with dichloromethane and washed with water followed by saturated sodium chloride solution, then dried (MgSO4), filtered and evaporated. Purification and salt formation was as described in Example 101 to afford the title compound as a white solid (52 mg).

reactant | 4-chloro-1-methyl-7-(4-morpholinylcarbonyl)-1H-pyrrolo[3,2-c]pyridine | 100 mg | ClC1=NC=C(C2=C1C=CN2C)C(=O)N2CCOCC2 | C13H14ClN3O2
reactant | 2-methyl-4-trifluoromethylaniline | 60 μl | CC1=C(N)C=CC(=C1)C(F)(F)F | C8H8F3N
reactant | cesium carbonate | 163 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | 1,4-dioxan | 2 ml | O1CCOCC1 | C4H8O2
solvent | dichloromethane | ClCCl | CH2Cl2
catalyst | tris(dibenzylideneacetone)dipalladium | 7 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene | 5 mg | C1(=CC=CC=C1)P(C1=CC=CC=2C(C3=CC=CC(=C3OC12)P(C1=CC=CC=C1)C1=CC=CC=C1)(C)C)C1=CC=CC=C1 | C39H32OP2
product | 1-Methyl-N-[2-methyl-4-(trifluoromethyl)phenyl]-7-(4-morpholinylcarbonyl)-1H-pyrrolo[3,2-c]pyridin-4-amine | 52 mg | CN1C=CC=2C(=NC=C(C21)C(=O)N2CCOCC2)NC2=C(C=C(C=C2)C(F)(F)F)C | C21H21F3N4O2
